US04256761
N-(3-Acetylthio-2-methylpropanoyl)-N-(cyclopropyl)glycine t-butyl ester
To a solution of N-(cyclopropyl)glycine t-butyl ester (12 g, 0.0702 mol) and 3-acetylthio-2-methylpropionic acid (8.1 g, 0.050 mol) in methylene chloride (200 ml) chilled in an ice bath was added dicyclohexylcarbodiimide (14.4 g, 0.070 mol). The resulting mixture was stirred for sixteen hours at room temperature. The dicyclohexylurea was removed by filtration and washed with diethyl ether. Evaporation of the filtrate yielded the crude product as a pale yellow oil which was used without further purification.

reactant | N-(cyclopropyl)glycine t-butyl ester | 0.0702 mol, 12 g | C(C)(C)(C)OC(CNC1CC1)=O | C9H17NO2
reactant | 3-acetylthio-2-methylpropionic acid | 0.050 mol, 8.1 g | C(C)(=O)SCC(C(=O)O)C | C6H10O3S
reactant | dicyclohexylcarbodiimide | 0.070 mol, 14.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Acetylthio-2-methylpropanoyl)-N-(cyclopropyl)glycine t-butyl ester | C(C)(C)(C)OC(CN(C1CC1)C(C(CSC(C)=O)C)=O)=O | C15H25NO4S
